US06150533
[2-(3H-Benzoimidazol-4-yloxy)-ethyl]-[3-(1H-indol-3-yl)-propyl]-amine
A solution of 3-{2-[3-(1H-indol-3-yl)-propylamino]-ethoxy}-benzene-1,2-diamine (0.75 g, 2.3 mmol) dissolved in 15 ml formic acid (98%) was heated to 104° C. for 6 hours. Upon standing overnight at 25° C., the excess formic acid was removed by vacuum distillaton. Water (100 ml) and ethyl acetate (100 ml) was added thereto. The ethyl acetate layer was separated and washed once with water (50 ml), once with brine (75 ml) and dried over anhydrous magnesium sulfate. Concentration of the solvent gave 0.7 g of product as a brown solid. Purification by chromatography (2 N ammonia in methanol:methylene chloride=20:1.5) and crystallization from ethyl acetate-ethanol afforded 0.345 g (44.8%) of product as a white solid: mp 121-124° C. decomposed. The HCl salt was prepared in ethanol: mp 256-258° C. decomposed.

reactant | 3-{2-[3-(1H-indol-3-yl)-propylamino]-ethoxy}-benzene-1,2-diamine | 2.3 mmol, 0.75 g | N1C=C(C2=CC=CC=C12)CCCNCCOC1=C(C(=CC=C1)N)N | C19H24N4O
reactant | formic acid | 15 ml | C(=O)O | CH2O2
product | [2-(3H-Benzoimidazol-4-yloxy)-ethyl]-[3-(1H-indol-3-yl)-propyl]-amine | 0.7 g | N1=CNC2=C1C=CC=C2OCCNCCCC2=CNC1=CC=CC=C21 | C20H22N4O
